US06670388B1
e) 5-Allyloxy-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic Acid Ethyl Ester
To solution of 5-allyloxyindole-2-carboxylic acid ethyl ester (1.0 g, 4.08 mmol) in THF (10 mL) was added azodicarboxylic acid bis[dimethylamide] (TMAD; 1.4 g, 8.15 mmol). After stirring at room temperature for 20 min, 2-(3-thienyl)ethanol (0.78 g, 6.12 mmol) was added followed by the addition of tributyl phosphine (1.65 g, 8.15 mmol). After stirring at room temperature for 18 h, the reaction was partitioned between ethyl acetate and water. The organic layer was washed with brine and dried over Na2SO4. Purification by flash colunmn chromatography (silica gel, EtOAc/hexanes) yielded the desired product as an oil (1.36 g, 94%).

reactant | 5-allyloxyindole-2-carboxylic acid ethyl ester | 4.08 mmol, 1.0 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OCC=C | C14H15NO3
reactant | 2-(3-thienyl)ethanol | 6.12 mmol, 0.78 g | S1C=C(C=C1)CCO | C6H8OS
reactant | tributyl phosphine | 8.15 mmol, 1.65 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-Allyloxy-1-[(2-thiophen-3-yl)ethyl]-1H-indole-2-carboxylic Acid Ethyl Ester | 1.36 g, 94% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OCC=C)CCC1=CSC=C1 | C20H21NO3S
